US07968538B2
To a solution of 1-(5-Fluoro-2-methoxy-3-chlorophenyl)ethanol (2.1 g 10.1 mmol) in acetone (30 mL) at room temperature was added pyridinium chlorochromate (5.5 g, 26.2 mmol). The reaction was stirred for 3 hours, diethyl ether was added (50 mL). The resultant sludge was filtered through celite. The organic phase was dried over Na2SO4, filtered over silica gel, and concentrated to the crude compound which was purified by silica gel column (20% ethyl acetate in hexanes) to afford 1-(5-fluoro-2-methoxy-3-chlorophenyl)ethanone (1.9 g, 97%): 1H NMR (400 MHz, CDCl3): δ 7.24 (m, 2H), 3.84 (s, 3H), 2.63 (s, 3H).

reactant | 1-(5-Fluoro-2-methoxy-3-chlorophenyl)ethanol | 10.1 mmol, 2.1 g | FC=1C=C(C(=C(C1)C(C)O)OC)Cl | C9H10ClFO2
reactant | pyridinium chlorochromate | 26.2 mmol, 5.5 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | 1-(5-fluoro-2-methoxy-3-chlorophenyl)ethanone | 1.9 g, 97% | FC=1C=C(C(=C(C1)C(C)=O)OC)Cl | C9H8ClFO2
